US09062008B2
Step 4: [3-Amino-6-(4-isopropylsulfonylphenyl)pyrazin-2-yl]-phenyl-methanone
1M Bromo(phenyl)magnesium in THF (823.2 μL, 0.8232 mmol) was added dropwise to a stirred solution of 3-amino-6-(4-isopropylsulfonylphenyl)-N-methoxy-N-methyl-pyrazine-2-carboxamide (100 mg, 0.2744 mmol) in anhydrous THF (6 mL) at −78° C. under an atmosphere of nitrogen. The reaction was stirred at this temperature for 30 minutes then allowed to warm to ambient temperature over 16 hours. The reaction mixture was concentrated in vacuo and residue was partitioned between DCM and water. The layers were separated and the organic extract was dried (MgSO4) and concentrated in vacuo. The material was purified by reverse phase preparative HPLC [Waters Sunfire C18, 10 μM, 100 Å column, gradient 10%-95% B (solvent A: 0.05% TFA in water; solvent B: CH3CN) over 16 minutes at 25 mL/min]. The fractions were collected, and freeze-dried to give the title compound as a yellow solid (49 mg, 42% Yield). NMR (400.0 MHz, DMSO) δ 1.16 (d, 6H), 3.44 (sept, 1H), 7.55-7.59 (m, 2H), 7.66 (m, 1H), 7.90 (d, 2H), 7.95-7.97 (m, 2H), 8.07 (br s, 2H), 8.18 (d. 2H) and 9.10 (s, 1H) ppm; (ES+) 382.0.

reactant | Bromo(phenyl)magnesium | 1M | Br[Mg]C1=CC=CC=C1
reactant | 3-amino-6-(4-isopropylsulfonylphenyl)-N-methoxy-N-methyl-pyrazine-2-carboxamide | 0.2744 mmol, 100 mg | NC=1C(=NC(=CN1)C1=CC=C(C=C1)S(=O)(=O)C(C)C)C(=O)N(C)OC | C16H20N4O4S
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | THF | 0.8232 mmol, 823.2 μL | C1CCOC1 | C4H8O
product | [3-Amino-6-(4-isopropylsulfonylphenyl)pyrazin-2-yl]-phenyl-methanone | 49 mg, 42% Yield | NC=1C(=NC(=CN1)C1=CC=C(C=C1)S(=O)(=O)C(C)C)C(=O)C1=CC=CC=C1 | C20H19N3O3S
